** sch_path: /foss/designs/analog-perceptron-gf180mcu/schematics/cg_amp_tia.sch
.subckt cg_amp_tia V_ref V_out V_bias I_in VSS
*.PININFO V_ref:B VSS:B I_in:I V_bias:I V_out:O
M1 V_out V_bias I_in VSS nfet_03v3 L=0.5u W=5u nf=1
XR1 V_out V_ref VSS ppolyf_u_1k r_width=3e-6 r_length=8.1e-6
.ends
